Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Left lower extremity edema
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ y.o. woman with HTN, HL, and anxiety presenting with L groin 
and leg pain found to have left ___ DVT. Patient presented last 
week to ___ with left-sided ___ pain and swelling. OSH U/S was 
notable for extensive clot. She noted on ___ some left 
inguinal pain that was worse with movement. She states today she 
woke to find her left leg was pink and dark, slightly more 
swollen compared to the right leg, and was tender to palpation.  

 At ___ had LLE U/S which showed extensive blood clot. She was 
transferred for potential need for IVC filter placement due to 
low h/h (did not want to start anticoagulation given her 
anemia). She was noted to have transient hypotention to SBPs in 
___ while at ___, and bp responded to fluid resuscitation. The 
patient denies any recent travel, immobilization, surgery, no 
exogenous hormones. She has no hx of DVT.  
 In the ED, initial vitals were: T 98.6 HR 78 BP 105/67 RR 16 
SpO2 100% RA. Labs were notable for: H/H 9.9/29.8 (OSH H/H was 
7.8/___). In the ED, Vascular Surgery evaluated the patient and 
recommended anticoagulation with heparin gtt with no plans for 
thrombolysis. Heparin gtt was started and the patient was 
admitted to the floor.  
 On the floor, the patient reports ___ pain and swelling 
improving. She denies any chest pain, dyspnea, cough, abdominal 
pain, fevers, chills, nausea, or vomiting. The patient was 
continued on heparin gtt.  
 Review of systems:  
 As per HPI, otherwise negative in detail 
 
Past Medical History:
No significant ___
 
Social History:
___
Family History:
Mother had CAD s/p CABG and also ___ DVTs 
 
Physical Exam:
Admission exam:
Vitals: T 98.5 HR 100 BP 107/74 RR 20 SpO2 97% on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: RRR, no m,r,g. Normal S1 and S2.  
Lungs: No wheezing, crackles, or rhonci.  
Abdomen: Soft, NT, ND. Normoactive BS  
Ext: L leg with purple discoloration, more edematous compared to 
R leg. Decreased popliteal, TP, and DP pulses on L compared to 
R.  
Neuro: Moving all extremities with purpose, no facial asymmetry. 
 

Discharge exam:
Vitals: T 99 HR 95 BP 107/74 RR 18 SpO2 97% on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: RRR, no m,r,g. Normal S1 and S2, without audible split. 
Lungs: ___ wheezing on the right, no crackles, or rhonchi. 
Coughs with deep breath. 
Abdomen: Soft, NT, ND. Normoactive BS  
Ext: L leg with purple discoloration, more edematous compared to 
R leg. Decreased popliteal, TP, and DP pulses on L compared to 
R. Left leg pale and tense compared with right. Heberden's nodes 
noted on DIPs bilaterally.
Neuro: Moving all extremities with purpose, no facial asymmetry. 

 
Pertinent Results:
ADMISSION LABS
___ 10:24PM   WBC-8.5 RBC-3.27* HGB-9.9* HCT-29.7* MCV-91 
MCH-30.3 MCHC-33.3 RDW-12.0 RDWSD-39.6
___ 10:24PM   NEUTS-61.7 ___ MONOS-12.5 EOS-4.1 
BASOS-0.6 IM ___ AbsNeut-5.22 AbsLymp-1.77 AbsMono-1.06* 
AbsEos-0.35 AbsBaso-0.05
___ 10:24PM   ___ PTT-28.6 ___
___ 10:24PM   cTropnT-<0.01 proBNP-52
___ 10:24PM   GLUCOSE-110* UREA N-25* CREAT-1.0 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-107 TOTAL CO2-18* ANION GAP-16
___ 10:40PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG
___ 10:40PM URINE  RBC-1 WBC-11* BACTERIA-FEW YEAST-NONE 
EPI-2 NONSQ EPI-<1

DISCHARGE LABS
___ 07:25AM   LD(LDH)-182
___ 07:25AM   CALCIUM-8.4 PHOSPHATE-3.2 MAGNESIUM-2.0 
IRON-26*
___ 08:15AM BLOOD ___
___ 08:15AM BLOOD WBC-8.7 RBC-3.21* Hgb-9.7* Hct-29.4* 
MCV-92 MCH-30.2 MCHC-33.0 RDW-12.0 RDWSD-40.5 Plt ___
___ 08:15AM BLOOD Glucose-99 UreaN-23* Creat-0.8 Na-137 
K-4.2 Cl-102 HCO3-24 AnGap-15
___ 08:15AM BLOOD ALT-82* AST-43* AlkPhos-35 TotBili-0.6
___ 07:25AM BLOOD calTIBC-263 Hapto-404* Ferritn-306* 
TRF-202
___ 08:15AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.0
___ 07:25AM BLOOD Calcium-8.4 Phos-3.2 Mg-2.0 Iron-26*

IMAGING:
CXR ___ IMPRESSION:  Heart size is normal.  Mediastinum is 
normal.  Lungs are clear.  No pleural effusion or pneumothorax 
is seen.  No change since the prior study demonstrated. 

CTA abd/pelvis ___: FINDINGS:  
VASCULAR:   
Left lower extremity venous thrombus extends from the popliteal 
vein 
superiorly to both the superficial and deep femoral veins, both 
the external and internal iliac veins, the common iliac vein, 
and partially into the IVC (03:32). There is moderate calcium 
burden in the abdominal aorta and great abdominal arteries. 
ABDOMEN:   
HEPATOBILIARY: Imaged portions of the liver and gallbladder are 
unremarkable.   
URINARY: Imaged portions of the kidneys are unremarkable. 
GASTROINTESTINAL: Imaged small bowel loops demonstrate normal 
caliber, wall thickness and enhancement throughout.  There is 
sigmoid colon diverticulosis without evidence of diverticulitis. 
 Appendix contains air, has normal caliber without evidence of 
fat stranding. 
LYMPH NODES: There is no lymphadenopathy in in the imaged 
portion of the 
abdomen. 
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no evidence of pelvic or inguinal lymphadenopathy.  
There is no free fluid in the pelvis.   
REPRODUCTIVE ORGANS: Reproductive organs are within normal 
limits.   
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.   
SOFT TISSUES: The pelvic wall is within normal limits.  
IMPRESSION:  Left lower extremity venous thrombus extends 
partially into the IVC, as described above. 

EKG ___: Sinus rhythm. Normal ECG. No previous tracing 
available for comparison. 
 
Brief Hospital Course:
Ms. ___ was transferred from ___ for 
evaluation of extensive femoral, iliac, and proximal IVC DVT. 

#LLE DVT: Patient initially presented to ___ due to L > R lower 
extremity edema. She was found to have an extensive LLE DVT but 
was not initiated on anticoagulation given H/H 7.8/___. Given no 
prior H/H values, there was a concern that she would potentially 
need IVC filter rather than anticoagulation. Given this concern 
for anemia and need for anticoagulation, she was transferred to 
___. Here, H/H on admission was 9.___.8 without intervention. 
CTA abd/pelvis revealed extensive DVT involving the IVC. EKG, 
BNP, and troponins were not consistent with PE or right heart 
strain. Patient was seen by vascular surgery in the ED for 
direct thrombolysis; however, it was determined that she did not 
require surgical intervention. She was subsequently started on 
heparin gtt, which was transitioned to rivaroxaban for 21 day 
"loading" course of 15mg BID followed by 3 months of 20mg daily. 
She is planned for at least a 3 month course of anticoagulation, 
but longer anticoagulation should be considered given the extent 
of the DVT (extending into IVC) and whether or not this was 
provoked. Her only identifiable risk factor for DVT was smoking. 
She has no family history of clot, no history of immobility, 
surgery, or malignancy. Of note, however, she is not up to date 
on age-appropriate cancer screening, and malignancy should be 
ruled out with mammography and colonoscopy. Throughout her 
hospital course, she remained on room air and had ambulatory 
saturations >95% spO2.

#Anemia: Patient was found to have normocytic anemia with iron 
studies consistent with chronic inflammation with possible 
element of iron deficiency. She had guaiac negative stool and no 
evidence of acute bleeding. Follow up of her anemia, including 
screening studies such as colonoscopy should be considered as an 
outpatient. 

#HTN: Patient was on home lisinopril, which was discontinued due 
to blood pressures in the 100s-110s systolic range.

#HLD: continued home simvastatin

#Anxiety: Patient is on home alprazolam PRN, which she did not 
require while admitted.

TRANSITIONAL ISSUES
[]EGD and colonoscopy as outpatient
[]smoking cessation
[]determine duration of anticoagulation (3 months vs longer) 
[]f/u blood pressure control while off lisinopril
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ALPRAZolam 2 mg PO BID:PRN Anxiety 
2. Simvastatin 40 mg PO QPM 
3. Lisinopril 20 mg PO DAILY 

 
Discharge Medications:
1. Rivaroxaban 15 mg PO BID Duration: 20 Days 
2. ALPRAZolam 2 mg PO BID:PRN Anxiety 
3. Simvastatin 40 mg PO QPM 
4. Rivaroxaban 20 mg PO DAILY Duration: 59 Days 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Acute deep venous thrombosis LLE
#Anemia, normocytic
#Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, you were admitted to ___ as a transfer from ___ 
___ for evaluation of a blood clot in your leg and 
pelvic veins. Typically, blood clots require ___ months of 
anticoagulation (blood thinners). We are going to treat you with 
a medication called rivaroxaban. At the end of 3 months of 
treatment we will leave the decision up to your primary care 
doctor as to whether you need further anticoagulation. They may 
recommend evaluation by a hematologist (blood doctor) to see if 
you have a genetic propensity to form clots. 

You were also found to be anemic (low red blood cell counts). 
The combination of anemia and blood clots makes us worry about a 
cancer. We strongly recommend that you have cancer screening as 
recommended by your primary care doctor.

Your blood pressure was slightly low here, so we stopped your 
lisinopril. You may need to restart this in the future, but we 
recommend stopping until your primary care doctor says to 
restart it.
Finally, we recommend that you stop smoking because tobacco 
smoke is associated with blood clots and many types of cancer.
 
Followup Instructions:
___